US08227458B2
trans-8-Chloro-5-(2-fluoro-ethyl)-1-[4-(5-fluoro-pyridin-2-yloxy)-cyclohexyl]-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzo[e]azulene
A mixture of trans-8-chloro-1-[4-(5-fluoro-pyridin-2-yloxy)-cyclohexyl]-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzo[e]azulene (0.10 g, 0.24 mmol) and potassium carbonate (67 mg, 0.48 mmol) in acetonitrile (1.2 ml) was treated with 1-bromo-2-fluoroethane (37 mg, 0.29 mmol) at 0° C. The cooling bath was removed and the reaction mixture was heated at 70° C. over night. The mixture was filtered and concentrated in vacuo. Purification by flash column chromatography gave the title compound (17 mg, 15%) as white solid. MS m/e: 460 (M+H+)

reactant | trans-8-chloro-1-[4-(5-fluoro-pyridin-2-yloxy)-cyclohexyl]-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzo[e]azulene | 0.24 mmol, 0.10 g | ClC1=CC2=C(N3C(=NN=C3CNC2)[C@@H]2CC[C@H](CC2)OC2=NC=C(C=C2)F)C=C1 | C21H21ClFN5O
reactant | potassium carbonate | 0.48 mmol, 67 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-fluoroethane | 0.29 mmol, 37 mg | BrCCF | C2H4BrF
solvent | acetonitrile | 1.2 ml | C(C)#N | C2H3N
product | trans-8-Chloro-5-(2-fluoro-ethyl)-1-[4-(5-fluoro-pyridin-2-yloxy)-cyclohexyl]-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzo[e]azulene | 17 mg, 15% | ClC1=CC2=C(N3C(=NN=C3CN(C2)CCF)[C@@H]2CC[C@H](CC2)OC2=NC=C(C=C2)F)C=C1 | C23H24ClF2N5O
